US05128356
2-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-acetic acid
A mixture of ethyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]benzimidazole-7-acetate (0.28 g) in 1N NaOH (1.5 ml) and methanol (5 ml) was heated for two hours under reflux. The reaction mixture was concentrated, which was neutralized with 1N-HCl. Crystals separated out were collected by filtration and purified by column chromatography on silica gel to afford colorless crystals (0.12 g, 46%), m.p. 170°-171° C.

reactant | ethyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]benzimidazole-7-acetate | 0.28 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)CC(=O)OCC | C29H30N6O2
solvent | NaOH | 1N, 1.5 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-acetic acid | 0.12 g, 46% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)CC(=O)O | C27H26N6O2
